US04576938
1-Isopropylidenamino-5-mercapto-1H-tetrazole sodium salt (5.37 g) was dissolved in a mixture of tetrahydrofuran (24 ml) and methanol (24 ml), and sodium borohydride (1.14 g) was added gradually thereto at 5°-6° C. under stirring. The mixture was stirred at the same temperature for one hour, and then at room temperature for one hour. The mixture was evaporated to remove solvent, and the residue was dissolved in icewater. The aqueous solution was adjusted to pH 2.8 with 6N-hydrochloric acid, and the solution was extracted with ethyl acetate (20 ml) three times repeatedly. The extracts were washed with a saturated sodium chloride solution, dried and then evaporated to remove solvent. n-Hexane was added to the residue thus obtained, and crystalline precipitates were collected by filtration. 4.14 g of 1-isopropylamino-5-mercapto-1H-tetrazole were obtained as colorless needles. mp 92°-95° C.

reactant | 1-Isopropylidenamino-5-mercapto-1H-tetrazole sodium salt | 5.37 g | [Na].C(C)(C)=NN1N=NN=C1S
reactant | sodium borohydride | 1.14 g | [BH4-].[Na+]
solvent | tetrahydrofuran | 24 ml | O1CCCC1 | C4H8O
solvent | methanol | 24 ml | CO | CH4O
product | 1-isopropylamino-5-mercapto-1H-tetrazole | 4.14 g | C(C)(C)NN1N=NN=C1S | C4H9N5S
